US08383821B2
tert-Butyl 4-((3-bromo-5-(dimethylcarbamoyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
A stirred solution of 3-bromo-5-(((1-(tert-butoxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)methyl)benzoic acid (160 mg, 0.32 mmol) in dimethylformamide (5 mL) was cooled to 0° C. and sequentially treated with methylene chloride (2 mL), dimethylamine (1 N in tetrahydrofuran, 0.32 mL, 0.32 mmol), N,N-diisopropylethylamine (90 μL, 0.64 mmol), and PyBop® (0.21 g, 0.38 mmol). The solution was stirred for 1.5 h and concentrated. The product was purified by column chromatography (30% ethyl acetate/hexanes) to give 120 mg (70%). 1H-NMR (CDCl3, 500 MHz) δ 7.38-7.40 (m, 1H), 7.33-7.35 (m, 4H), 7.22-7.24 (m, 2H), 7.03 (s, 1H), 4.32 (s, 2H), 3.74-3.77 (m, 2H), 3.38 (s, 2H), 3.08 (s, 3H), 2.99-3.05 (m, 2H), 2.90 (s, 3H), 2.16-2.19 (m, 2H), 1.83-1.89 (m, 2H), 1.43 (s, 9H). Mass spec.: 533.24 (MH)+.

reactant | 3-bromo-5-(((1-(tert-butoxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)methyl)benzoic acid | 0.32 mmol, 160 mg | BrC=1C=C(C(=O)O)C=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C25H30BrNO5
reactant | dimethylamine | 0.32 mmol, 1 N, 0.32 mL | CNC | C2H7N
reactant | N,N-diisopropylethylamine | 0.64 mmol, 90 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | PyBop | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-((3-bromo-5-(dimethylcarbamoyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(N(C)C)=O | C27H35BrN2O4
